US08633189B2
To a solution of ethyl 2-(4-tert-butyl-3-hydroxyphenylcarbamoyl)-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate (50 mg, 0.13 mmol) in THF at 0° C. was added NaH (10 mg, 0.25 mmol) and the mixture stirred for 10 min. Methyl iodide (23 mg, 10 μL, 0.16 mmol) was added and mixture was stirred for 1 h at room temperature. HPLC purification (20-99% MeOH/water) provided ethyl 2-((4-tert-butyl-3-hydroxyphenyl) (methyl)carbamoyl)-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate (18 mg, 32% yield). LC/MS m/z 413.0 [M+H]+. 1H NMR (400.0 MHz, DMSO-d6) δ 9.85 (s, 1H), 7.57 (d, J=6.9 Hz, 1H), 7.24 (d, J=8.4 Hz, 1H), 7.00 (t, J=7.1 Hz, 1H), 6.88-6.79 (m, 4H), 4.79 (br s, 1H), 4.21-4.11 (m, 2H), 4.02-3.98 (m, 1H), 3.65 (d, J=13.4 Hz, 1H), 3.10 (s, 3H), 1.35 (s, 9H), 1.24 (t, J=7.1 Hz, 3H).

reactant | ethyl 2-(4-tert-butyl-3-hydroxyphenylcarbamoyl)-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate | 0.13 mmol, 50 mg | C(C)(C)(C)C1=C(C=C(C=C1)NC(=O)C1CN(C2=C(O1)C=CC=C2)C(=O)OCC)O | C22H26N2O5
reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | Methyl iodide | 0.16 mmol, 10 μL, 23 mg | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 2-((4-tert-butyl-3-hydroxyphenyl) (methyl)carbamoyl)-2H-benzo[b][1,4]oxazine-4(3H)-carboxylate | 18 mg, 32% yield | C(C)(C)(C)C1=C(C=C(C=C1)N(C(=O)C1CN(C2=C(O1)C=CC=C2)C(=O)OCC)C)O | C23H28N2O5
